US04011335
19.8 g. of 3,7,9-trimethyl-1,6-decadien-3-ol, 100 ml. of hexane and 1 ml. of pyridine and cooled to -15° C. and treated dropwise over a period of 1.5 hours with a solution of 4 ml. of phosphorus tribromide in 50 ml. of hexane while maintaining the temperature between -15° and -10° C. The mixture is stirred for a further 90 minutes while slowly warming to room temperature. For the working-up, the mixture is poured on to 50 ml. of ice-water, the organic phase is separated and washed once with 20 ml. of 10% soda solution, once with 50 ml. of semi-saturated aqueous sodium chloride solution and once with 50 ml. saturated sodium chloride solution, dried over sodium sulphate and evaporated under reduced pressure. There is obtained 1-bromo-3,7,9-trimethyl-2,6-decadiene.

reactant | 3,7,9-trimethyl-1,6-decadien-3-ol | CC(C=C)(CCC=C(CC(C)C)C)O | C13H24O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | hexane | CCCCCC | C6H14
product | 1-bromo-3,7,9-trimethyl-2,6-decadiene | BrCC=C(CCC=C(CC(C)C)C)C | C13H23Br
